US07572808B2
E. Preparation of 2-(4-(trifluoromethyl)benzyl)-8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirred solution of 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (100 mg, 0.39 mmol) in acetone (10 mL) at room temperature under argon was added 1-(bromomethyl)-4-(trifluoromethyl)benzene (111 mg, 0.46 mmol), followed by K2CO3 (107 mg, 0.77 mmol). The resulting suspension was heated at reflux overnight. Analysis by HPLC/MS indicated that starting material had been consumed. After cooling the reaction mixture to room temperature, most of the solvent was removed under reduced pressure. Water (15 mL) and EtOAc (15 mL) were added. The layers were separated. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to obtain 102 mg of the title compound as a white solid. HPLC/MS: retention time=4.03 min, [M+H]+=418. 1H NMR (CDCl3): δ 7.77 (d, J=7.0 Hz, 1H), 7.61-7.45 (m, 4H), 7.38 (d, J=8.1 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 6.58 (d, J=7.0 Hz, 1H), 5.31 (s, 2H), 2.46 (s, 3H). N-alkylation, rather than O-alkylation, was demonstrated by the presence of a 13C NMR resonance at 49.6 ppm.

reactant | 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.39 mmol, 100 mg | ClC=1C=2N(C=CC1C1=CC=C(C=C1)C)C(NN2)=O | C13H10ClN3O
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | 0.46 mmol, 111 mg | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | K2CO3 | 0.77 mmol, 107 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-(4-(trifluoromethyl)benzyl)-8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 102 mg | FC(C1=CC=C(CN2N=C3N(C=CC(=C3Cl)C3=CC=C(C=C3)C)C2=O)C=C1)(F)F | C21H15ClF3N3O
